US07807686B2
To trifluoromethanesulfonic acid 3-[(cyclopropylmethylcarbamoyl)methyl]-4-oxo-2-phenyl-3,4-dihydroquinazolin-6-yl ester (100 mg, 0.2 mmol) in acetone (2 mL) and water (1 mL) was added 3-hydroxyphenyl boronic acid (60 mg, 0.4 mmol), K2CO3 (excess), and tetrakis(triphenylphosphine)palladium (23 mg, 10 mol %). The solution was heated at 60° C. for 1 h. The resulting mixture was cooled to room temperature and the solid material collected by filtration, washed with acetone and dried in vacuo to give N-cyclopropylmethyl-2-[6-(3-hydroxymethylphenyl)-4-oxo-2-phenyl-4H-quinazolin-3-yl]acetamide (60 mg, 0.14 mmol, 68%).

reactant | trifluoromethanesulfonic acid 3-[(cyclopropylmethylcarbamoyl)methyl]-4-oxo-2-phenyl-3,4-dihydroquinazolin-6-yl ester | 0.2 mmol, 100 mg | C1(CC1)CNC(=O)CN1C(=NC2=CC=C(C=C2C1=O)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1 | C21H18F3N3O5S
reactant | 3-hydroxyphenyl boronic acid | 0.4 mmol, 60 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropylmethyl-2-[6-(3-hydroxymethylphenyl)-4-oxo-2-phenyl-4H-quinazolin-3-yl]acetamide | 0.14 mmol, 60 mg, 68% | C1(CC1)CNC(CN1C(=NC2=CC=C(C=C2C1=O)C1=CC(=CC=C1)CO)C1=CC=CC=C1)=O | C27H25N3O3
